US04370329
4.32 g of 3,4,5-trimethoxybenzyl chloride and 3.24 g of N-phenyl piperazine is dissolved in 50 ml of dimethyl formamide in the presence of 3.0 g of water-free soda and is boiled for 8 hours under reflux. After sucking off insoluble matter, the filtrate is evaporated to dryness, the residue is dissolved in methanol. Subsequently hydrochloric acid gas is introduced in the solution and the precipitate sucked off. After drying, 3.4 g of N-(3,4,5-trimethoxybenzyl)-N'-phenyl-piperazine hydrochloride is obtained.

reactant | 3,4,5-trimethoxybenzyl chloride | 4.32 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | N-phenyl piperazine | 3.24 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | water | 3.0 g | O | H2O
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(3,4,5-trimethoxybenzyl)-N'-phenyl-piperazine hydrochloride | 3.4 g | Cl.COC=1C=C(CN2CCN(CC2)C2=CC=CC=C2)C=C(C1OC)OC | InChI=1S/C20H26N2O3.ClH/c1-23-18-13-16(14-19(24-2)20(18)25-3)15-21-9-11-22(12-10-21)17-7-5-4-6-8-17;/h4-8,13-14H,9-12,15H2,1-3H3;1H
